* Disclaimer:
* No rights or licenses are granted by ams to Recipient, expressly or by implication, with respect to any proprietary information 
* or patent, copyright mask, work, trademark, trade secret or other intellectual property right owned or controlled by ams, except
* as expressly provided by ams. Recipient may not remove any copyright notices from the Simulation File. ams may make changes to 
* the Simulation Files or to items referenced therein at any time without notice and is not obligated to support or update these Files.
* This simulation File is provided by ams "AS IS" and any express or implied warranties, including, but not limited to the implied 
* warranties of merchantability and fitness for a particular purpose are disclaimed. In no event shall ams or its suppliers be liable 
* for any direct, indirect, incidental, special, exemplary or consequential damages (including, but not limited to procurement of 
* substitute goods or services, loss of use, data or profits, or business interruption however caused and on any theory of liability, 
* whether in contract, strict liability or tort (including negligence or otherwise) arising in any way out of the use of - or any 
* inability to use - this Simulation File, even if advised of the possibility of such damage.  
* © ams AG

.subckt OPAMP1 inn inp out pd xpd vdda vssa 
xd1 vssa vdda primitive_nwd AREA=Axd1 PJ=Pxd1 M=1
xi0 vssa net69 primitive_nd AREA=Axi0 PJ=Pxi0 M=1
xi3 net51 vdda primitive_pd AREA=Axi3 PJ=Pxi3 M=1
xr0 vssa vdda net51 primitive_rdiffp L=Lr0 W=Wr0 M=1
xr1 vdda vdda net69 primitive_rdiffp L=Lr1 W=Wr1 M=1
xcc01 net12 out primitive_cpoly AREA=Ac0 PERI=Pc0 M=1
mnm12 net13 net56 vssa vssa nmos1 L=Ln11 W=Wn11   *AD=11e-12 AS=11e-12 PD=12.2e-6 PS=12.2e-6 NRD=60e-3 NRS=60e-3 M=1
mnm11 net56 net56 vssa vssa nmos1 L=Ln11 W=Wn11   *AD=11e-12 AS=11e-12 PD=12.2e-6 PS=12.2e-6 NRD=60e-3 NRS=60e-3 M=1
mnb02 net27 net27 net21 vssa nmos1 L=Ln2 W=Wn2   *AD=11e-12 AS=11e-12 PD=12.2e-6 PS=12.2e-6 NRD=60e-3 NRS=60e-3 M=1
mnpd1 net21 xpd vssa vssa nmos1 L=Lnpd1 W=Wnpd1   *AD=7.04e-12 AS=7.04e-12 PD=8.6e-6 PS=8.6e-6 NRD=93.75e-3 NRS=93.75e-3 M=1
mn001 out net13 vssa vssa nmos1 L=Ln1 W=Wn1   *AD=55e-12 AS=55e-12 PD=52.2e-6 PS=52.2e-6 NRD=12e-3 NRS=12e-3 M=1
mnpd2 net13 pd vssa vssa nmos1 L=Lnpd2 W=Wnpd2   *AD=7.04e-12 AS=7.04e-12 PD=8.6e-6 PS=8.6e-6 NRD=93.75e-3 NRS=93.75e-3 M=1
mnc01 net13 net69 net12 vssa nmos1 L=Lnc1 W=Wnc1   *AD=4.4e-12 AS=4.4e-12 PD=6.2e-6 PS=6.2e-6 NRD=150e-3 NRS=150e-3 M=1
mpb02 net27 net51 net158 vdda pmos1 L=Lpb2 W=Wpb2   *AD=5.5e-12 AS=5.5e-12 PD=7.2e-6 PS=7.2e-6 NRD=120e-3 NRS=120e-3 M=1
mppd1 net158 xpd vdda vdda pmos1 L=Lppd1 W=Wppd1   *AD=7.04e-12 AS=7.04e-12 PD=8.6e-6 PS=8.6e-6 NRD=93.75e-3 NRS=93.75e-3 M=1
mps11 net31 net158 vdda vdda pmos1 L=Lps11 W=Wps11   *AD=22e-12 AS=22e-12 PD=22.2e-6 PS=22.2e-6 NRD=30e-3 NRS=30e-3 M=1
mpd11 net56 inn net31 net31 pmos1 L=Lp11 W=Wp11   *AD=33e-12 AS=33e-12 PD=32.2e-6 PS=32.2e-6 NRD=20e-3 NRS=20e-3 M=1
mp001 out net158 vdda vdda pmos1 L=Lp1 W=Wp1   *AD=88e-12 AS=88e-12 PD=82.2e-6 PS=82.2e-6 NRD=7.5e-3 NRS=7.5e-3 M=1
mpd12 net13 inp net31 net31 pmos1 L=Lp11 W=Wp11   *AD=33e-12 AS=33e-12 PD=32.2e-6 PS=32.2e-6 NRD=20e-3 NRS=20e-3 M=1
mpb01 net158 net158 vdda vdda pmos1 L=Lpb1 W=Wpb1   *AD=11e-12 AS=11e-12 PD=12.2e-6 PS=12.2e-6 NRD=60e-3 NRS=60e-3 M=1
.ends

